US05610145
8-Azido-octan-1-ol
8-Bromo-octan-1-ol (2.61 g, 12.5 mmol) was dissolved in Dmf (30 mL) and sodium azide (0.89 g, 13.75 mmol) was added. The reaction was heated to 90° C. and stirred overnight. The solution was then cooled to room temperature and poured onto ice. The aqueous was extracted with DCM (3×200 mL) and the combined extracts were washed with brine (2×200 mL), then dried over MgSO4. The solution was filtered and the solvent was removed in vacuo to give a yellow oil, 1.99 g (93% yield);

reactant | 8-Bromo-octan-1-ol | 12.5 mmol, 2.61 g | BrCCCCCCCCO | C8H17BrO
reactant | sodium azide | 13.75 mmol, 0.89 g | [N-]=[N+]=[N-].[Na+]
product | 8-Azido-octan-1-ol | 93% yield | N(=[N+]=[N-])CCCCCCCCO | C8H17N3O
